US08080541B2
Step 6. Preparation of 2-difluoromethoxy-6-methoxy-4-trifluoromethyl-benzoic acid methyl ester
To a solution of 35 mg (0.140 mmol) 2-hydroxy-6-methoxy-4-trifluoromethyl-benzoic acid methyl ester in 350 ul N,N-dimethylformamide under nitrogen at room temperature, was added 29 mg (0.210 mmol) potassium carbonate, followed dropwise by 18.1 ul (0.168 mmol) methyl chlorodifluoroacetate. The reaction mixture was heated in a 65° C. oil bath for 22 hours. Water and ethyl acetate were added. Both phases were separated and the organic layer was washed 3 times with water. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The crude brown oil (49 mg) was purified with flash column chromatography on silica (10 g) eluting with a gradient formed from n-heptane and ethyl acetate (0%=>10% in 15 minutes) to provide 16 mg (y: 38.1%) of the title compound as a light yellow oil.

reactant | 2-hydroxy-6-methoxy-4-trifluoromethyl-benzoic acid methyl ester | 0.140 mmol, 35 mg | COC(C1=C(C=C(C=C1OC)C(F)(F)F)O)=O | C10H9F3O4
reactant | potassium carbonate | 0.210 mmol, 29 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chlorodifluoroacetate | 0.168 mmol, 18.1 ul | ClC(C(=O)OC)(F)F | C3H3ClF2O2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 350 ul | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-difluoromethoxy-6-methoxy-4-trifluoromethyl-benzoic acid methyl ester | COC(C1=C(C=C(C=C1OC)C(F)(F)F)OC(F)F)=O | C11H9F5O4
